US07521462B2
A mixture of N-methyl N-methoxy isoquinoline-1-carboxamide (0.75 g, 3.47 mmol) in dry toluene (25 ml) is cooled to −37° C. and a solution of diisobutylaluminumhydride (DIBAL-H) in toluene (1M, 3.8 ml) is added. The reaction temperature is slowly increased to −4° C. over 4 h and a 20% aqueous solution of tartaric acid (10 ml) is added. The mixture is stirred for 10 min at ambient temperature, saturated aqueous sodium bicarbonate is added and the mixture extracted with dichloromethane. The combined organic layers are dried over sodium sulfate, filtered, and concentrated. The crude product and 4-(isobutylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.89 g, 3.47 mmol), acetic acid (0.2 ml), and 1,2-dichloroethane (15 ml) are mixed and sodium triacetoxyborohydride (1.03 g, 4.86 mmol) is added. The reaction is stirred at ambient temperature over night. Aqueous sodium hydroxide (2M) is added and the mixture is extracted with diethyl ether. The combined organic layers are dried over sodium sulfate, filtered, and concentrated. The crude product is purified by column chromatography [silica, acetone/hexane (15:85)], followed by [silica, ethyl acetate/hexane (5:95), followed by ethyl acetate/hexane (1:3)] to give 0.23 g of 4-{(isobutyl)-[(isoquinolin-1-yl)-methyl]amino}-piperidine-1-carboxylic acid tert-butyl ester: mass spectrum (ion spray): m/z=398.1 (M+1). 1H NMR (CDCl3): δ=8.60 (1H, d), 8.39 (1H, d), 7.79 (1H, d), 7.65 (1H, dd), 7.53-7.56 (2H, m), 4.10-4.30 (4H, m), 2.50-2.70 (3H, m), 2.25-2.35 (2H, m), 2.80-2.85 (2H, m), 1.45-1.60 (3H, m), 1.46 (9H, s), 0.68 (6H, d).

reactant | N-methyl N-methoxy isoquinoline-1-carboxamide | 3.47 mmol, 0.75 g | CN(C(=O)C1=NC=CC2=CC=CC=C12)OC | C12H12N2O2
reactant | diisobutylaluminumhydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | tartaric acid | 10 ml | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 4-(isobutylamino)-piperidine-1-carboxylic acid tert-butyl ester | 3.47 mmol, 0.89 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC(C)C | C14H28N2O2
reactant | sodium triacetoxyborohydride | 4.86 mmol, 1.03 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1M, 3.8 ml | C1(=CC=CC=C1)C | C7H8
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
product | 4-{(isobutyl)-[(isoquinolin-1-yl)-methyl]amino}-piperidine-1-carboxylic acid tert-butyl ester | 0.23 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC1=NC=CC2=CC=CC=C12)CC(C)C | C24H35N3O2
